US07897789B2
C. 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophen-6-ol
To a solution of 3-{4-[1-ethyl-1-(6-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol (0.80 g, 1.82 mmol) and DMF (10 mL) is added NaSEt (1.53 g, 18.15 mmol). The resulting solution is heated at 100° C. overnight, diluted with diethyl ether (50 mL), washed with water (3×50 mL), brine (50 mL), dried with MgSO4, filtered and concentrated. The resulting residue is purified by silica gel chromatography (10% to 40% EtOAc gradient) to give the title compound (0.67 g, 1.57 mmol, 87%). 1H NMR (CDCl3), δ 0.75 (t, J=7.2 Hz, 6H), 0.95 (t, J=7.4 Hz, 6H), 1.67 (q, J=15.1, 7.4 Hz, 4H), 2.12-2.24 (m, 7H), 3.82 (s, 2H), 6.73 (d, J=8.6 Hz, 1H), 6.79 (dd, J=9.0, 2.6 Hz, 1H), 6.79 (dd, J=9.0, 2.6 Hz, 1H), 7.00 (s, 1H), 7.05 (d, J=2.2 Hz, 1H), 7.08 (dd, J=8.2, 2.6 Hz, 1H), 7.11 (d, J=2.2 Hz, 1H), 7.49 (d, J=9.0 Hz, 1H). LC/MS (m/z): calcd. for C26H35O3S (M+H)+: 427.2; found: 427.1.

reactant | 3-{4-[1-ethyl-1-(6-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol | 1.82 mmol, 0.80 g | C(C)C(CC)(C1=CC2=C(S1)C=C(C=C2)OC)C2=CC(=C(OCC(CC)(CC)O)C=C2)C | C27H36O3S
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophen-6-ol | 1.57 mmol, 0.67 g, 87% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC2=C(S1)C=C(C=C2)O | C26H34O3S
